US07078428B2
N-[2-(2-Isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionyl]guanidine is prepared as described in Example 30, starting with 3.73 g (39.0 mmol) of guanidinium chloride in 20 cm3 of dimethylformamide and 3.94 g (35.1 mmol) of potassium tert-butoxide. The mixture is stirred for 45 minutes at a temperature in the region of 20° C., followed by dropwise addition of a solution of 1.13 g (3.90 mmol) of ethyl 3-(2-isobutylcarbamoylphenyl)-2-methylacrylate in 15 cm3 of dimethylformamide, and the mixture is stirred for 3 hours at a temperature in the region of 20° C. After leaving the solution to stand overnight, the solvent is removed and the residue is dissolved in aqueous 2N hydrochloric acid solution. After extracting once with dichloromethane, the organic phase is concentrated and the residue is then taken up in 2N hydrochloric acid solution, filtered and then freeze dried. 862 mg of N-[2-(2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionyl]guanidine are thus obtained in the form of a mixture of the diastereomers. The pH of the aqueous phase is adjusted to a value of 12 with potassium hydroxide and the precipitate thus obtained is filtered off*. The solid thus obtained is taken up in aqueous 2N hydrochloric acid solution and, after filtration and a freeze drying procedure, about 255 mg of one of the two diastereomers produced (diastereomer A) are obtained in the form of the hydrochloride enriched in a ratio of 9:1 (MS(ES): M+H: 303.1).

reactant | guanidinium chloride | 39.0 mmol, 3.73 g | [Cl-].NC(=[NH2+])N
reactant | potassium tert-butoxide | 35.1 mmol, 3.94 g | CC(C)([O-])C.[K+]
reactant | ethyl 3-(2-isobutylcarbamoylphenyl)-2-methylacrylate | 3.90 mmol, 1.13 g | C(C(C)C)NC(=O)C1=C(C=CC=C1)C=C(C(=O)OCC)C | C17H23NO3
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 cm3 | CN(C=O)C | C3H7NO
product | N-[2-(2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionyl]guanidine | 862 mg | C(C(C)C)N1C(C2=CC=CC=C2C1=O)C(C(=O)NC(=N)N)C | C16H22N4O2
